US06057369
A solution of 0.463 g (0.91 mmol) of N-benzyloxy-3-(4-methoxyphenylsulfonyl)-3-ethyl-7-phenylheptanamide in 75 mL of EtOH is shaken for 3 days under 50 psi of H2 with 0.2 g of 10% Pd on carbon. The mixture is filtered and concentrated in vacuo. Purification by flash silica gel chromatography afforded 0.1 g (26%) of 3-(4-methoxybenzenesulfonyl)-3-ethyl-7-phenylheptanoic acid hydroxamide in the form of a white foam, m.p. 44-46° C.1H NMR (DMSO-d6) δ (TMS)0.97 (t, 3H), 1.45-1.9 (m, 8H), 2.4 (s, 2H), 2.55 (m, 2H), 3.87 (s, 3H), 7.1-7.25(m, 5H), 7.28 (d, 2H), 7.65 (d, 2H), 8.83 (s,1H), 10.6 (s,1H).

reactant | N-benzyloxy-3-(4-methoxyphenylsulfonyl)-3-ethyl-7-phenylheptanamide | 0.91 mmol, 0.463 g | C(C1=CC=CC=C1)ONC(CC(CCCCC1=CC=CC=C1)(CC)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C29H35NO5S
reactant | EtOH | 75 mL | CCO | C2H6O
catalyst | Pd on carbon | 0.2 g | [Pd] | Pd
product | 3-(4-methoxybenzenesulfonyl)-3-ethyl-7-phenylheptanoic acid | 0.1 g, 26% | COC1=CC=C(C=C1)S(=O)(=O)C(CC(=O)O)(CCCCC1=CC=CC=C1)CC | C22H28O5S
